US08097636B2
To a stirred suspension of sodium borohydride (10.17 g, 0.2688 mol) in anhydrous tetrahydrofuran (160 ml) under N2 at 0° C. was added a solution of trifluoroacetic acid (30.65 g, 20.71 ml, 0.2688 mol) in anhydrous tetrahydrofuran (25 ml) dropwise over 30 minutes. The mixture was stirred at 10° C. for 10 minutes. A solution of 2-(3,4-dichlorophenyl)acetonitrile (50 g, 0.268 mol) in anhydrous tetrahydrofuran (50 ml) was added dropwise over 30 minutes. The mixture was stirred at room temperature for 1 hour and then poured slowly onto 500 g of crushed ice. The mixture was extracted three times with dichloromethane (300 ml). The organic phases were combined, washed three times with aqueous saturated NaHCO3 (250 ml) and once with water (250 ml), dried over sodium sulfate and concentrated under reduced pressure to provide a yellow oil as the crude product (56 g). This crude product was dissolved in dichloromethane (560 ml, 10 ml/g) and extracted three times with 2 M HCl solution (300 ml). The combined aqueous layers were washed with dichloromethane (300 ml), basified to pH 10 by addition of 1 M NaOH at 0° C. then extracted three times with dichloromethane (500 ml). The combined organic phases containing the product were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide the desired 2-(3,4-dichlorophenyl)ethylamine free base as a light yellow oil (32.07 g, 62% yield).

reactant | sodium borohydride | 0.2688 mol, 10.17 g | [BH4-].[Na+]
reactant | trifluoroacetic acid | 0.2688 mol, 20.71 ml, 30.65 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3,4-dichlorophenyl)acetonitrile | 0.268 mol, 50 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 560 ml | ClCCl | CH2Cl2
product | 2-(3,4-dichlorophenyl)ethylamine | 32.07 g, 62% yield | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
